*Spice netlist for Circuit: G:\CircuitMaker\Digimotor.ckt..ckt
VDVCC 23 0 DC 5
* BEGIN Adding ADC and/or DAC
A1 [25 27 29 30 31 36 38] [6 7 9 10 12 17 23] dac_mod
A2 [33 34 35] [14 15 16] dav_mod
A3 [0 6 7 12 17 23] [24 26 28 32 37 39] adc_mod
.model dav_mod xdav
.model dac_mod xdac
.model adc_mod xadc
* END adding ADC and/or DAC

*LM1 4 NLM1 
RLM1 NLM1 3 10
AU2B [39 24 35 33][38 35 33 25] A74LS02
AU2A [39 24 33 34][38 33 34 31] A74LS02
XD3 11 10 XLED2
XD2 13 7 XLED1
**p=1 r=1
Xb2 5 6 (NO DESCRIPTION) XCOIL
**p=1 r=1
Xb1 12 5 (NO DESCRIPTION) XCOIL
*Xc1 4 5 0 (NO DESCRIPTION) XCONTACTS
*Xc2 3 5 0 (NO DESCRIPTION) XCONTACTS
V3 5 0 DC 5V
XR4 8 9 XLED1
AU4A [39 24 33][38 33 27] A74LS04
AU3 [39 24 28 26][38 27 25 30] A74LS00
AU3 [39 24 32 28][38 31 27 29] A7400
V2 17 0 DC 5V
AU1A [39 24 37 35 33 37][38 36 35 33 36 35 34] A74LS74
R3 5 11 1k
R2 5 13 1k
R1 5 8 1k
.SAVE V(3) V(4) V(5) V(6) V(7) V(8) V(9) V(10) V(11) V(12) V(13) V(14) V(15)
.SAVE V(16) V(17) @lm1[p] @lm1[i] @v3[p] v3#branch @v2[p] v2#branch @r3[p]
.SAVE @r3[i] @r2[p] @r2[i] @r1[p] @r1[i]
*BKGND=RGB 0 0 0
*BINARY RAW FILE

* Selected Circuit Analyses :
.TRAN 20n 5u 0 20n

* Models/Subcircuits Used:

*74LS02 LS 2-in NOR - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS02 xsimcode(file="C:\Arquivos de programas\CM60S\MODELS\LS.SCB" func=ls02 )

*COIL Generic alias:XCOIL
.SUBCKT XCOIL 1 2 3
L1 1 4 0.01
R1 2 4 500
R2 3 0 1k
SW1 3 5 6 0 SMOD
V1 5 0 DC 1
BNLV 6 0 V=abs(v(1,2))
.MODEL SMOD SW(VT=4 VH=0.1)
.ENDS XCOIL

*CONTACTS Generic alias:XCONTACTS
.SUBCKT XCONTACTS 1 2 3 4
SW1 2 1 4 0 SWNC ON
SW2 3 1 4 0 SWNO ON
.MODEL SWNC SW(VT=0.5 RON=0.1 ROFF=1g)
.MODEL SWNO SW(VT=0.5 RON=1g ROFF=0.1)
.ENDS XCONTACTS

*74LS04 LS Hex Inverter - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2)(B:3,4)(C:5,6)(D:9,8)(E:11,10)(F:13,12)
.MODEL A74LS04 xsimcode(file="C:\Arquivos de programas\CM60S\MODELS\LS.SCB" func=ls04 )

*74LS00 LS 2-in NAND - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.MODEL A74LS00 xsimcode(file="C:\Arquivos de programas\CM60S\MODELS\LS.SCB" func=ls00 )
* (.MODEL  A7400 is not in the selected model file: C:\Arquivos de programas\CM60S\MODELS\2INNAND.MOD)

*74LS74 LS Dual D-type filp-flop - type:digital pkg:DIP14 [DVCC=14;DGND=7;](A:4,2,3,1,6,5)(B:10,12,11,13,8,9)
.MODEL A74LS74 xsimcode(file="C:\Arquivos de programas\CM60S\MODELS\LS.SCB" func=ls74 )
.END
