*Spice netlist for Circuit: G:\CircuitMaker\Fonte de alimentação de corrente continua.ckt
C2 3 0 100uF
D2 0 4 D1N4736
Q1 5 4 3 Q2N2222A
C1 5 0 100uF
XD1 0 7 5 6 X18DB10
V6 8 0 DC 0 SIN(0 170 60 0 0) AC 1 0
LPKT1 8 0 1mh
LSKT1 7 6 1mh
KT1 LPKT1 LSKT1 .999
R2 0 3 5k
R1 4 5 680R
.SAVE V(3) V(4) V(5) V(6) V(7) V(8) @c2[p] @c2[i] @d2[id] @q1[p] @q1[ic] @q1[ib]
.SAVE @q1[ie] @c1[p] @c1[i] @v6[p] v6#branch @r2[p] @r2[i] @r1[p] @r1[i]
*BKGND=RGB 0 0 0
*BINARY RAW FILE

* Selected Circuit Analyses :
.TRAN 333.3u 83.33m 0 333.3u

* Models/Subcircuits Used:

*1N4736 6.8V 1W Si Zener pkg:DIODE0.4 A,K
.MODEL D1N4736 D(IS=7.76E-16 RS=1 TT=5.01E-8 CJO=1.23E-10 VJ=0.75
+ M=0.33 BV=6.766 IBV=0.037 )

*2N2222A Si 500mW 40V 800mA 300MHz GenPurp pkg:TO-18 3,2,1
.MODEL Q2N2222A NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

*18DB10 1000V 1.8A Si pkg:D-2
.SUBCKT X18DB10 1 2 3 4
D1 1 2 18DB10
D2 1 4 18DB10
D3 2 3 18DB10
D4 4 3 18DB10
.MODEL 18DB10 D (IS=4.94N RS=42M N=1.75 BV=1K IBV=191U CJO=75.3P VJ=.75 M=.333 TT=4.32U)
.ENDS X18DB10
.END
